US04816553
Example 3 is repeated, except that the glyoxal solution is added dropwise to the mixture in the course of 4 hours and at the same time the water used as solvent and the water formed in the course of the reaction are distilled off azeotropically. 2.5 hours after the addition of glyoxal solution the total amount of water which has been distilled off is 167 g. 101 g are obtained of a solid product in which gluconolactone is not detectable.

reactant | glyoxal | C(=O)C=O | C2H2O2
solvent | water | O | H2O
product | gluconolactone | C([C@@H]1[C@H]([C@@H]([C@H](C(=O)O1)O)O)O)O | C6H10O6
